US09359375B2
(R)-4-(1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-(1H-indol-3-yl)propanamide (100 mg, 0.240 mmol) in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1 mL, 1.0 mmol) and aq. H2O2 (50%, 1 mL) were added. The mixture was stirred at room temperature for 1 h. HOAc (1 mL) was added. The mixture was purified by HPLC to give the titled compound (51 mg). MS 435.2 (M+H); UV 221.7, 292.8 nm.

reactant | (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-(1H-indol-3-yl)propanamide | 0.240 mmol, 100 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)CC1=CNC2=CC=CC=C12)NC1=CC(=NS1)C | C22H20N6OS
reactant | NaOH | 1.0 mmol, 1N, 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide | 51 mg | NC([C@@H](CC1=CNC2=CC=CC=C12)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)=O | C22H22N6O2S
